US07098337B2
b) (4R,9aR)-6-Amino-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 0.23 g (0.49 mmol) (4R,9aR)-6-(benzhydrylidene-amino)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 2.5 ml methanol were added 0.46 g (7.4 mmol) ammonium formate and 104 mg (0.05 mmol) 5% palladium on charcoal and the suspension was stirred for 1 h at 60 deg C. The cooled reaction mixture was filtered through a short bed of dicalite speed plus, extracted with 10% aqueous sodium bicarbonate, brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by chromatography on silica gel (0.032–0.063 mm) to yield the product as a colorless oil (58.9%).

reactant | (4R,9aR)-6-(benzhydrylidene-amino)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.49 mmol, 0.23 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C29H32N4O2
reactant | ammonium formate | 7.4 mmol, 0.46 g | C(=O)[O-].[NH4+]
solvent | methanol | 2.5 ml | CO | CH4O
catalyst | palladium on charcoal | 0.05 mmol, 104 mg | [Pd] | Pd
product | (4R,9aR)-6-Amino-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 58.9% | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)N | C16H24N4O2
